US07687495B2
a) N—{(R)-2-[(2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-1-methyl-ethyl}-acetamide
According to general procedure D, 80 mg of (R)-2-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-1-methyl-ethylamine are reacted with acetic acid to afford the title compound as a brown oil. Rf=0.17 (EtOAc-heptane 5:1); Rt=4.67.

reactant | (R)-2-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-1-methyl-ethylamine | 80 mg | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)C[C@@H](C)N | C35H47N3O6S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N—{(R)-2-[(2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-1-methyl-ethyl}-acetamide | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)C[C@@H](C)NC(C)=O | C37H49N3O7S
